US04640940
Allyloxypropanediol Dimethacrylate
Allyloxypropanediol (0.5 equivalents) was stirred in chloroform with pyridine (1 equivalent) and dimethlaminopyridine (0.05 equivalent) and warmed to 50° C. Methacrylic anhydride was added dropwise and stirring was continued until starting diol was no longer detected by gas chromatography. The reaction mixture was then washed with dilute hydrochloric acid, sodium bicarbonate and water. Concentration on a rotary evaporator gave the crude product.

reactant | Allyloxypropanediol | 0.5 equivalents | C(C=C)OC(CC)(O)O | C6H12O3
reactant | pyridine | 1 equivalent | N1=CC=CC=C1 | C5H5N
reactant | dimethlaminopyridine | 0.05 equivalent | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Methacrylic anhydride | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Allyloxypropanediol Dimethacrylate | C(C(=C)C)(=O)OC(CC)(OC(C(=C)C)=O)OCC=C | C14H20O5
